US04690951
1-(3-Hydroxyphenyl)-2-[1,1-dimethyl-3-(4-fluorophenyl)propylamino]ethanol
A solution of 10.0 g. of the product thus produced in 200 ml. of ethanol containing 3.0 g. of Raney Nickel was shaken for two hours at 25° C. under hydrogen at 44 psi. The reaction mixture was then filtered, and the solvent was removed from the filtrate by evaporation under reduced pressure to give a white solid. The solid was triturated with ethyl acetate and air dried to provide 5.9 g. of 1-(3-hydroxyphenyl)-2-[1,1-dimethyl-3-(4-fluorophenyl)propylamino]ethanol hydrochloride. M.P. 196.5°-198.5° C.

reactant | 1-(3-hydroxyphenyl)-2-[1,1-dimethyl-3-(4-fluorophenyl)propylamino]ethanol hydrochloride | Cl.OC=1C=C(C=CC1)C(CNC(CCC1=CC=C(C=C1)F)(C)C)O
catalyst | Raney Nickel | [Ni] | Ni
solvent | ethanol | 3.0 g | C(C)O | C2H6O
product | 1-(3-Hydroxyphenyl)-2-[1,1-dimethyl-3-(4-fluorophenyl)propylamino]ethanol | OC=1C=C(C=CC1)C(CNC(CCC1=CC=C(C=C1)F)(C)C)O | C19H24FNO2
